US06743794B2
(cis-3(S)-Aminocyclohexylmethyl)carbamic Acid Benzyl Ester
S-amino enantiomer of N-({3-[(t-butoxy)carbonyl-amino]cyclohexyl}methyl) (phenylmethoxy)carboxamide (1.0 g, 2.76 mmol) was treated with TFA (5 mL) under N2. After 20 min of stirring at r.t. the reaction was complete. The crude was then concentrated to an oil which was purified on a Varian Bond-Elut SCX column (10 g). The column was eluted consecutively with CHCl3, MeOH, and ammonia (2.0M in MeOH). The pure product was recovered from the ammonia fractions. The solvent was removed in vacuo to afford 0.632 g (87%) as a colorless oil. MS (ES+) m/z 263.0 (M+H)+.

reactant | N-({3-[(t-butoxy)carbonyl-amino]cyclohexyl}methyl) (phenylmethoxy)carboxamide | 2.76 mmol, 1.0 g | C(C)(C)(C)OC(=O)NC1CC(CCC1)CNC(=O)OCC1=CC=CC=C1 | C20H30N2O4
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (cis-3(S)-Aminocyclohexylmethyl)carbamic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(NC[C@H]1C[C@H](CCC1)N)=O | C15H22N2O2
